US04908363
1.0 g of 1-amino-2-methylimidazole hydrochloride and 2.0 g of 4-hydroxy-3,5-di-tert.-butylbenzoyl chloride are mixed and heated on an oil-bath for 40 minutes to 200°-210° (bath temperature), whereby the flask content melts with the evolution of HCl and then again becomes solid. The cooled flask content is dissolved in 30 ml of water, whereupon the solution is filtered and the filtrate is adjusted to pH 9 with 10% sodium carbonate solution. The separated precipitate is removed by filtration and dissolved in 25 ml of hot ethanol, whereupon the still hot solution is treated with 10 ml of water. After cooling, the separated solid is removed by filtration and recrystallized from ethyl acetate. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzoylamino)-2-methylimidazole of m.p. 322°-324° (dec.).

reactant | 1-amino-2-methylimidazole hydrochloride | 1.0 g | Cl.NN1C(=NC=C1)C
reactant | 4-hydroxy-3,5-di-tert.-butylbenzoyl chloride | 2.0 g | OC1=C(C=C(C(=O)Cl)C=C1C(C)(C)C)C(C)(C)C | C15H21ClO2
reactant | HCl | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzoylamino)-2-methylimidazole | OC1=C(C=C(C(=O)NN2C(=NC=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H27N3O2
